US09403804B2
d) 1-[4-Amino-3-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-cyclohexanecarbonitrile
A solution of 1-(4-amino-3-bromo-phenyl)-cyclohexane carbonitrile (136 mg, 0.487 mmol, as prepared in the previous step) in DMF (10 mL) was treated with 4,4-dimethyl-cyclohex-1-enylboronic acid (90.0 mg, 0.585 mmol) and Na2CO3 (1.95 mL, 3.90 mmol, 2 M aq). The mixture was degassed via sonication, placed under Ar, treated with Pd(dppf)Cl2 (35.6 mg, 0.0487 mmol), and heated to 80° C. overnight. The cooled mixture was partitioned between EtOAc (50 mL) and water (50 mL). The aqueous layer was extracted with EtOAc (2×50 mL). The combined organic layers was dried over MgSO4 and concentrated in vacuo. Silica gel chromatography of the residue on a 20-g Isolute SPE column with 10-15% EtOAc-hexane afforded the title compound (45.9 mg, 30%) as a colorless glassy solid. Mass spectrum (ESI, m/z): Calcd. for C21H28N2, 309.2 (M+H). found 309.2.

reactant | 1-(4-amino-3-bromo-phenyl)-cyclohexane carbonitrile | NC1=C(C=C(C=C1)C1(CCCCC1)C#N)Br | C13H15BrN2
reactant | 4,4-dimethyl-cyclohex-1-enylboronic acid | 0.585 mmol, 90.0 mg | CC1(CC=C(CC1)B(O)O)C | C8H15BO2
reactant | Na2CO3 | 3.90 mmol, 2 M, 1.95 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.0487 mmol, 35.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-[4-Amino-3-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-cyclohexanecarbonitrile | 45.9 mg, 30% | NC1=C(C=C(C=C1)C1(CCCCC1)C#N)C1=CCC(CC1)(C)C | C21H28N2
